US07723286B2
a) Synthesis of 3-(dodecylthio)-1-(2,6,6-trimethyl-3-cyclohexen-1-yl)-1-butanone
A solution of 8-damascone (10.0 g; 52.1 mmol) and 1-dodecanthiol (8.42 g, 41.7 mmol) in THF (150 ml) was treated with DBU (7.92 g; 52.1 mmol) and stirred at 45° C. for 90 min. The reaction solution was treated with 5% aqueous HCl, extracted twice with ether, washed with H2O, saturated aqueous NaHCO3, then brine, dried over Na2SO4, and concentrated at 70° C./0.01 mbar. Yield of crude product: 16.2 g (99%).

reactant | 8-damascone | 52.1 mmol, 10.0 g | C/C=C/C(=O)C1C(C=CCC1(C)C)C | C13H20O
reactant | 1-dodecanthiol | 41.7 mmol, 8.42 g | C(CCCCCCCCCCC)S | C12H26S
reactant | DBU | 52.1 mmol, 7.92 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | HCl | Cl | ClH
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 3-(dodecylthio)-1-(2,6,6-trimethyl-3-cyclohexen-1-yl)-1-butanone | C(CCCCCCCCCCC)SC(CC(=O)C1C(C=CCC1(C)C)C)C | C25H46OS
